US07550461B2
To a solution of 7-nitro-benzo[b]thiophene-2-carboxylic acid (5-tert-butyl-3-methanesulfonylamino-2-methoxy-phenyl)-amide (1.2 g) in EtOAc (60 mL) was added 600 mg of 10% Pd/C. The reaction mixture was degassed and charged with H2 two times. The reaction was then stirred at room temperature under the H2 balloon. After 5 h, the reaction was diluted with EtOAc, filtered through a pad of diatomaceous earth and rinsed with EtOAc. The combined organics were concentrated to give 7-amino-benzo[b]thiophene-2-carboxylic acid (5-tert-butyl-3-methanesulfonylamino-2-methoxy-phenyl)-amide (1.1 g, 93%).

reactant | 7-nitro-benzo[b]thiophene-2-carboxylic acid (5-tert-butyl-3-methanesulfonylamino-2-methoxy-phenyl)-amide | 1.2 g | C(C)(C)(C)C=1C=C(C(=C(C1)NC(=O)C1=CC2=C(S1)C(=CC=C2)[N+](=O)[O-])OC)NS(=O)(=O)C | C21H23N3O6S2
solvent | EtOAc | 60 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 600 mg | [Pd] | Pd
product | 7-amino-benzo[b]thiophene-2-carboxylic acid (5-tert-butyl-3-methanesulfonylamino-2-methoxy-phenyl)-amide | 1.1 g, 93% | C(C)(C)(C)C=1C=C(C(=C(C1)NC(=O)C1=CC2=C(S1)C(=CC=C2)N)OC)NS(=O)(=O)C | C21H25N3O4S2
